US04816454
6-(3-Indolyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone
7.0 g (0.03 mole) of 4-(3-(indolyl)-4-oxo-3-methylbutyric acid and 1.7 ml (0.035 mole) of hydrazine hydrate are heated under reflux in 60 ml of ethanol for 2 hours. After the mixture has been concentrated, the residue is chromatographed over a silica gel column with methylene chloride:methanol=9:1 as the eluant and the product is recrystallised from isopropanol.

reactant | 3-(indolyl)-4-oxo-3-methylbutyric acid | N1C(=CC2=CC=CC=C12)C(CC(=O)O)(C=O)C | C13H13NO3
reactant | hydrazine hydrate | 0.035 mole, 1.7 ml | O.NN
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 6-(3-Indolyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | N1C=C(C2=CC=CC=C12)C=1C(CC(NN1)=O)C | C13H13N3O
